US05763481
6,6-Difluorohex-5-enoic acid N-(4-trimethylsilylphenyl)amide
With cooling at 10°, 1.0 g of 6,6-difluorohex-5-enoic acid chloride is added to 1.0 g of 4-trimethylsilylaniline, 0.73 g of trithylamine and 10 mg of 4-N-pyrrolidinopyridine in 25 ml of tetrahydrofuran. The mixture is stirred for 2 hours at room temperature and then concentrated by evaporation in vacuo. The residue is taken up in toluene, the toluene phase is washed with water, dried over sodium sulfate and concentrated to dryness by evaporation. The residue is taken up in hexane:ethyl acetate (9:1) and filtered over silica gel. Evaporation of the filtrate yields the title compound having a melting point of 50°-51° (compound no. 1-1).

reactant | 6,6-difluorohex-5-enoic acid chloride | 1.0 g | FC(=CCCCC(=O)Cl)F | C6H7ClF2O
reactant | 4-trimethylsilylaniline | 1.0 g | C[Si](C1=CC=C(N)C=C1)(C)C | C9H15NSi
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 6,6-Difluorohex-5-enoic acid N-(4-trimethylsilylphenyl)amide | C[Si](C1=CC=C(C=C1)NC(CCCC=C(F)F)=O)(C)C | C15H21F2NOSi
